US04824958
5-Bromo-3-isopropylthio-N-1H-tetrazol-5-yl-2-furancarboxamide.
A solution of 3.1 g (19.5 mmol, 1.6 equiv) of bromine in 7 mL of chloroform is added dropwise to a room temperature solution of 3.98 g (12.22 mmol) of 3-isopropylthio-5-trimethylsilyl-N-1H-tetrazol-5-yl-2-furancarboxamide in 13 mL of chloroform and 20 mL of glacial acetic acid under nitrogen atmosphere. The resulting mixture is stirred at room temperature for 23 hours then poured onto 200 mL of water. The aqueous mixture is extracted with ethyl acetate (3x). The combined extracts are washed with 10% aqueous sodium thiosulfate and saturated aqueous sodium chloride, dried over sodium sulfate and concentrated in vacuo to give a yellow solid. Recrystallization from isopropanol/water gave 1.58 g (4.06 g theo., 38%) of the desired product as a yellow solid; mp 200°-210° C. (dec).

reactant | bromine | 19.5 mmol, 3.1 g, 1.6 equiv | BrBr | Br2
reactant | 3-isopropylthio-5-trimethylsilyl-N-1H-tetrazol-5-yl-2-furancarboxamide | 12.22 mmol, 3.98 g | C(C)(C)SC1=C(OC(=C1)[Si](C)(C)C)C(=O)NC1=NN=NN1 | C12H19N5O2SSi
reactant | water | 200 mL | O | H2O
solvent | chloroform | 7 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 13 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 5-Bromo-3-isopropylthio-N-1H-tetrazol-5-yl-2-furancarboxamide | BrC1=CC(=C(O1)C(=O)NC1=NN=NN1)SC(C)C | C9H10BrN5O2S
